US06090825
[5-(4-Fluoro-Phenyl)-2-Piperidin-4-yl-Oxazol-4-yl]Methanol
A solution of 1-{4-[5-(4-fluoro-phenyl)-4-hydroxymethyl-oxazol-2-yl]-piperidin-1-yl}-ethanone (1.0 g; 3.14 mmol) in 95% ethanol (10 ml) is treated with a solution of sodium hydroxide (2.5 g; 62.9 mmol) in water (5 ml) and the heterogeneous mixture heated at 75 C. for three hours. The ethanol is removed in a rotary evaporator and the residue is diluted with water (10 ml) and extracted with ethyl acetate (3×20 ml) and chloroform (3×20 ml). The organic phases are washed with saturated brine (10 ml), dried over sodium sulfate and concentrated to dryness. Purification by radial chromatography on silica gel using a methanol/dichloromethane gradient (5%-30%) containing 5% triethylamine afforded the product as an orange solid (0.63 g; 73%). HNMR (CD3OD): 7.34 (dd, 2H, J=8.7; 5.6 Hz), 6.80 (t, 2H, J=8.7 Hz), 4.29 (s, 2H), 2.82 (m, 2H), 2.66 (m, 1H), 2.41 (m, 2H), 1.76 (m, 2H), 1.49 (m, 2H).

reactant | 1-{4-[5-(4-fluoro-phenyl)-4-hydroxymethyl-oxazol-2-yl]-piperidin-1-yl}-ethanone | 3.14 mmol, 1.0 g | FC1=CC=C(C=C1)C1=C(N=C(O1)C1CCN(CC1)C(C)=O)CO | C17H19FN2O3
reactant | sodium hydroxide | 62.9 mmol, 2.5 g | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | [5-(4-Fluoro-Phenyl)-2-Piperidin-4-yl-Oxazol-4-yl]Methanol | 0.63 g, 73% | FC1=CC=C(C=C1)C1=C(N=C(O1)C1CCNCC1)CO | C15H17FN2O2
